US08633220B2
In accordance with the procedure of Furstner (Angew. Chem. Int. Ed., 2002, 41, 609-612), a solution of methyl 6-(((trifluoromethyl)sulfonyl)oxy)-1-naphthoate (334 mg, 1.0 mmol) and Fe(acac)3 in THF (6 mL) and NMP (0.56 mL) was treated with n-hexylmagnesium bromide (1.2 mL of a 2.0 M solution in Et2O, 2.4 mmol) at room temperature. After 30 min, the mixture was diluted with Et2O (20 mL) and quenched with 1 N aqueous HCl (5 mL). The phases were separated and the organic phase was washed with water (2×15 mL) and brine (15 mL), then dried (Na2SO4), filtered and concentrated in vacuo. The resulting residue was purified on 40 g silica gel (100% hexanes→20% EtOAc/hexanes, gradient) to afford 206 mg (76%) of methyl 6-hexyl-1-naphthoate.

reactant | methyl 6-(((trifluoromethyl)sulfonyl)oxy)-1-naphthoate | 1.0 mmol, 334 mg | FC(S(=O)(=O)OC=1C=C2C=CC=C(C2=CC1)C(=O)OC)(F)F | C13H9F3O5S
reactant | n-hexylmagnesium bromide | C(CCCCC)[Mg]Br
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | NMP | 0.56 mL | CN1CCCC1=O | C5H9NO
solvent | Et2O | CCOCC | C4H10O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | methyl 6-hexyl-1-naphthoate | 206 mg, 76% | C(CCCCC)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C18H22O2
